2117-02-19 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2117-2-18**] 09:22 PM
   - transfused 2 units pRBCs, ordered for 1 more
   History obtained from Family / [**Hospital 75**] Medical records
   Allergies:
   History obtained from Family / [**Hospital 75**] Medical [**Name2 (NI) 330**] Agents
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2117-2-18**] 11:00 PM
   Vancomycin - [**2117-2-18**] 11:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Musculoskeletal: leg pain and cramping
   Flowsheet Data as of  [**2117-2-19**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.8
C (96.4
   HR: 57 (54 - 66) bpm
   BP: 94/63(70) {80/39(49) - 122/74(84)} mmHg
   RR: 9 (7 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
    CVP: 7 (3 - 7)mmHg
   Total In:
                                                                  1,185 mL
                                                                    946 mL
   PO:
   TF:
   IVF:
                                                                    810 mL
                                                                    571 mL
   Blood products:
                                                                    375 mL
                                                                    375 mL
   Total out:
                                                                  2,500 mL
                                                                    800 mL
   Urine:
                                                                  2,500 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,315 mL
                                                                    146 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   217 K/uL
   7.7 g/dL
   91 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.2 mEq/L
   31 mg/dL
   104 mEq/L
   133 mEq/L
   22.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2117-2-19**]  04:50 AM
   WBC
   8.3
   Hct
   22.0
   Plt
   217
   Cr
   1.3
   Glucose
   91
   Other labs: PT / PTT / INR:14.7/29.3/1.3, Lactic Acid:1.0 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Imaging: Renal US -   No hydronephrosis.  No evidence of bladder mass,
   partially
   distended bladder with internal clots.
   Microbiology: [**2-17**] -   Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS AEROBIC BOTTLE [**2-18**].
      Aerobic Bottle Gram Stain (Final [**2117-2-18**]):
         GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
      Anaerobic Bottle Gram Stain (Final [**2117-2-19**]):
         GRAM POSITIVE COCCI.
        IN PAIRS AND CLUSTERS.
   Assessment and Plan
   54 yo male with history of C2-C4 abscess with drainage complicated by
   quadriplegia was transferred to the [**Hospital Unit Name 1**] for further management of
   severe sepsis.
   PLAN:
   1. Severe Sepsis
   Patient was transferred from the floor with evidence of sepsis
   (temperature to 103.7 on admission and elevated WBC) and end organ
   dysfunction given his altered mental status. Most likely source of his
   sepsis is bacteremia given gram positive cocci in [**3-5**] blood cultures.
   Etiology of his bacteremia is likely from PICC line that has been
   pulled, although an additional possibility includes sacral decubitus
   ulcer (although site appears clean and without purulent drainage).
   Additional sources include genitourinary source given hematuria. No
   additional evidence for pulmonary source given lungs relatively clear
   on exam, O2 sat appropriate on room air, and unremarkable CXR.
   - follow-up blood and urine cultures - on contact precautions [**Name2 (NI) 331**]
   speciation of gram + cocci
   - CXR- neg for acute cardiopulm process
   - fluid resuscitate with blood products and IVF boluses prn for goal
   MAP > 65
   - placed central line for possible initiation of pressors
   - start broad spectrum antibiotics with vancomycin to cover MRSA can
   d/c ceftazidime, f/u culture and sensitivities
   - re-culture
   - consider re-ordering MRI L spine if increased suspicion for
   osteomyelitis; will hold off on ordering now given acute renal failure
   - TTE this am to r/o cardiac seeding
   2. Acute Renal Failure
   Etiology appears most likely either post-renal secondary to obstruction
   secondary to clots, pre-renal secondary to increased insensible losses
   / hypotension, or possibly progression to ATN given intermittent
   hypotension leading up to transfer.
   - send FE urea
   - renal US negative for hydro, did show clots within bladder
   - FeNa 2% suggestive of intrinsic process
   - spin urine today to evaluate for casts
   3. Hematuria
   Unclear etiology for sudden development of hematuria given no clear
   history for Foley trauma. On CBI with persistently bloody urine, in
   interval when CBI bags being changed, urine noted to be frankly bloody
   by nursing
   - continue CBI
   - send urine cytology
   - consider urology consult if hematuria persists or if creatinine
   worsens
   - continue to transfuse for HCT>25
   4. Anemia
   Patient with hematocrit decrease in the setting of persistent hematuria
   and IVF hydration. Differential includes blood loss secondary to
   hematuria.
   - check iron studies, vitamin B12, folate, and reticulocyte count
   - guaiac all stools
   - transfused 2 units pRBCs given concern for active bleeding, will
   continue to transfuse for HCT>25
   - check HCT q4h
   - maintain two peripheral IVs and active type and cross
   - d/c fondaparinux
   5. Decubitus Ulcer
   Patient with Stage IV decubitus ulcer that appears clean and without
   evidence of infection.
   - wound care consult
   - continue zinc, vitamin C, vitamin B complex, and ascorbic acid
   6. Chronic Pain and Muscle Spasms
   Patient with chronic pain and muscle spasms. Pain medications were held
   immediately prior to transfer given concern for altered mental status
   and lethargy. Blood pressure and mental status are now slightly
   improved.
   - continue patient's MS Contin
   - continue baclofen
   - will re-assess mental status in the AM and consider adding back prn
   morphine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-2-18**] 06:59 PM
   Multi Lumen - [**2117-2-18**] 09:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: possible call-out this pm

2117-02-20 10:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yr old, hx C2-C4 abscess complicated by quadriplegia
   24 Hour Events:
   Liquid stools - sent for culture
   Transfused total of 4 units PRBC
   [**3-5**] blood cultures positive for coag neg staph
   I/O probably not accurate given 4 L u/o
   Hematuria resolved on CBI
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2117-2-18**] 11:00 PM
   Vancomycin - [**2117-2-19**] 08:20 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Musculoskeletal: C/o muscle spasms, chronic back pain
   Flowsheet Data as of  [**2117-2-20**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 55 (51 - 75) bpm
   BP: 105/73(79) {81/44(53) - 128/84(95)} mmHg
   RR: 15 (8 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
   CVP: 5 (4 - 10)mmHg
   Total In:
                                                                  1,840 mL
                                                                  1,176 mL
   PO:
                                                                    150 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    601 mL
   Blood products:
                                                                    750 mL
                                                                    375 mL
   Total out:
                                                                  4,000 mL
                                                                  1,300 mL
   Urine:
                                                                  4,000 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,160 mL
                                                                   -124 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   PERL, chest clear, S1S2 normal, abd nontender. PPP.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   224 K/uL
   88 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.5 mEq/L
   19 mg/dL
   109 mEq/L
   140 mEq/L
   23.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2117-2-19**]  04:50 AM
                             [**2117-2-19**]  12:39 PM
                             [**2117-2-19**]  07:48 PM
                             [**2117-2-20**]  04:29 AM
   WBC
   8.3
   5.8
   Hct
   22.0
   25.0
   24.0
   23.1
   Plt
   217
   224
   Cr
   1.3
   0.8
   Glucose
   91
   88
   Other labs: PT / PTT / INR:13.5/29.4/1.2, Lactic Acid:1.0 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:1.5 mg/dL
   Imaging: Echo - EF 55%, mild thickening, no vegetations but can't r/o
   completely with TTE.
   Microbiology: C diff pending
   [**3-5**] cultures positive for coag neg staph
   Assessment and Plan
   Gram positive septicemia likely from infected PICC.
   1. Coag negative staph sepsis - likely line sepsis from PICC with 4/4
   GPC. Continue vanco but switch to penicillin if sensitivities allow.
   TTE negative. If additional cultures positive, would do TEE. Otherwise,
   I think this is easily attributed to infected PICC.
   2. Hematuria - improved. Cultures pending.
   3. C2 quad - lives at [**Location 333**]. not vent dependent. Chronic pain.
   4. Hx of pseudomonal UTI on [**2-2**].
   5. Acute anemia - likely due to combination of hematuria and hydration.
   Seems to be stabilizing
   6. Decubitus ulcers
   7. Acute renal failure - resolved. etiology likley was post-renal
   secondary to obstruction with clots seen on ultrasound vs. pre-renal
   secondary hypotension.
   ICU Care
   Nutrition:
   Glycemic Control:
   20 Gauge - [**2117-2-18**] 06:59 PM
   Multi Lumen - [**2117-2-18**] 09:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes